US08859615B2
(S)-8-(4S,5S)-5-heptyl-2,2-dimethyl-1,3-dioxolan-4-yl)octa-1-en-4,6-diyn-3-ol, ent-panaxytriol acetonide was prepared from (3S,9S,10S)-heptadeca-1-en-4,6-diyne-3,9,10-triol, ent-panaxytriol, by the method described in Yun, H.; Chou, T. C.; Dong, H.; Tian, Y.; Li, Y-M.; Danishefsky, S. J. J. Org Chem. 2005, 70, 10375, yielding the product with: [α]19.3D-70.5 (c=0.13, CHCl3). 1H NMR (300 MHz, CDCl3) δ 5.94 (ddd, 17.1 Hz, 10.2 Hz, 5.4 Hz, 1H), 5.47 (d, 17.1, 1H), 5.26 (d, 10.2 Hz, 1H), 4.92 (d, 5.1 Hz, 1H), 4.36 (t, 6 Hz, 1H), 3.77 (m, 2H), 2.60 (m, 2H), 1.7-1.2 (m, 12H), 1.40 (s, 6H), 0.88 (t, 6.9 Hz, 3H). LRMS (APCI+) found 319.0, [M]+, 333.04, [M+H2O]+.

reactant | (3S,9S,10S)-heptadeca-1-en-4,6-diyne-3,9,10-triol | C=C[C@@H](C#CC#CC[C@@H]([C@H](CCCCCCC)O)O)O | C17H26O3
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | O | H2O
product | octa-1-en-4,6-diyn-3-ol | C=CC(C#CC#CC)O | C8H8O
